Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Sudafed
 
Attending: ___.
 
Chief Complaint:
behavioral change, dementia
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ w/ w/ hx alzheimers and vascular dementia, DCIS s/p 
resection and anastrazole, HTN, agoraphobia with acute on 
chronic delusions and paranoia was admitted with worsening 
psychiatric status over the last week, including auditory, 
visual hallucinations, and behavioral
abnormalities with related caregiver stress.  Per report, 
patient hallucinating 'a man' and hearing a 'rabbi's voice'. 
This is not a new psychosis for her, and she states the rabbi 
intends to marry her when her husband dies some day, but she 
says she wouldn't really marry the rabbi. She also threw away 
all her medications.  

In theED, head CT was normal, Urine was "dirty" and she received 
Ceftriaxone despite absence of urinary symptoms. The patient did 
not meeting ___ criteria.  Felt to have delirium.  She 
has been on antidepression and has h/o anxiety and agoraphobia.  
Psychiatry was consulted rec'd to hold home psych meds including 
paroxetine and clonazepam and donepezil.  Recommended Ramelteon 
8mg qHS prn insomnia.  OK to resume home HTN and HLD meds. They 
also recommended Recommended redirection for agitation, 
contacting husband PRN. Seroquel 25 mg PO PRN for agitation.

On the ward, patient was  AOx3, however has poor insight into 
her condition, and is a poor historian.  History is taken from 
herand husband.  The husband states that the patient has been
confused, hallucinating seeing people, animals, and hearing a 
rabbi's voice.  The patient confirms the rabbi's voice, who 
talks about things like the number of children he has.  She 
denies homicidal or suicidal statements from rabbi's voice.  The 
husband notes that poor memory, hallucinations, behavioral 
abnormalities have been ongoing for months, but that today she 
said she saw a man with a gun outside, and he was concerned, so 
he took her to ED. He
reiterates information above and below, and says an outpatient 
MRI had been planned.

Per Gerontology ___ -  She was seen by a geriatric 
psychiatrist and behavioral neurologist as far back as ___.  
She was diagnosed with chronic anxiety, agoraphobia without 
clear panic attacks and had been taking medications including 
tricyclics, SSRIs for quite sometime.  She
also had been taking benzodiazepines including Librium for many 
years. In ___, she was evaluated by Dr. ___ 
___ because of a referral from her primary care doctor, ___ she was having forgetfulness and word finding 
difficulties.  In ___, she was reevaluated there was a 
decline in her memory from one test to another and they 
suggested that this could be an atypical presentation of very 
early Alzheimer's disease.  Re: Breast cancer - was diagnosed 
with breast cancer at the ___.  Dr. ___ 
breast surgeon at the ___, did three excisions.  She was 
told to start anastrozole, which she took from ___ to ___. However, because one of the side effects is said to be 
memory loss, they decided to stop the anastrozole in ___.   
Weight loss - her husband has noticed lately that her eating has 
slowed down a great deal and it takes her a long time to eat a 
bagel. She has lost nearly 12 pounds in the past several months. 
 

Diagnosed with Alzheimers, possibly vascular dementia.  Started 
on Aricept (though held later d/t confusion).  Geronotology 
recommended continuing anastrazole.  Weight loss spossibly d/t
eating less/slower. Note seen ___ at ___ for UTI, got macrobid.

ROS: Pertinent positives and negatives as noted in the HPI.  All 
other systems were reviewed and are negative. Full 10 point ROS 
completed. 
 
Past Medical History:
Dementia, unspecified
Anxiety
Agoraphobia
HTN
HLD
DCIS s/p resection
 
Social History:
___
Family History:
The patient was extremely vague about her family history.  
Mother died at ___, father died at ___ of colon cancer. She has no 
___ or sisters.
 
Physical Exam:
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: aox3 but poor insight
 
Pertinent Results:
___ 12:59PM   WBC-5.2 RBC-4.67 HGB-14.6 HCT-43.2 MCV-93 
MCH-31.3 MCHC-33.8 RDW-12.7 RDWSD-43.0
___ 12:59PM   PLT COUNT-182
___ 12:59PM   NEUTS-60.2 ___ MONOS-10.4 EOS-2.7 
BASOS-0.8 IM ___ AbsNeut-3.14 AbsLymp-1.34 AbsMono-0.54 
AbsEos-0.14 AbsBaso-0.04
___ 12:59PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 12:59PM   ALBUMIN-4.3
___ 12:59PM   ALT(SGPT)-32 AST(SGOT)-28 LD(LDH)-173 ALK 
PHOS-70 TOT BILI-0.5
___ 12:59PM   GLUCOSE-116* UREA N-13 CREAT-0.8 SODIUM-142 
POTASSIUM-4.2 CHLORIDE-102 TOTAL CO2-28 ANION GAP-12
___ 01:59PM URINE  RBC-7* WBC-18* BACTERIA-FEW* YEAST-NONE 
EPI-<1
___ 01:59PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 04:51PM   LACTATE-2.7*
___ 06:45AM BLOOD WBC-5.2 RBC-4.50 Hgb-14.1 Hct-40.7 MCV-90 
MCH-31.3 MCHC-34.6 RDW-12.6 RDWSD-41.4 Plt ___
___ 06:45AM BLOOD Neuts-46.3 ___ Monos-10.7 Eos-3.5 
Baso-1.0 Im ___ AbsNeut-2.39 AbsLymp-1.97 AbsMono-0.55 
AbsEos-0.18 AbsBaso-0.05
___ 06:45AM BLOOD ___ PTT-26.4 ___
___ 06:45AM BLOOD Glucose-92 UreaN-10 Creat-0.6 Na-143 
K-3.8 Cl-105 HCO3-26 AnGap-12
___ 06:45AM BLOOD ALT-26 AST-24 AlkPhos-63 TotBili-0.4
___ 06:45AM BLOOD TSH-4.1
___ 06:45AM BLOOD VitB12-___ Folate-19
___ 07:12AM BLOOD Lactate-1.6

___ CXR - no acute porcess

___ HEAD CT - 1. Mildly motion degraded examination without 
evidence of an acute
intracranial abnormality or large intracranial mass with 
significant associated edema.  Scattered periventricular and 
subcortical white matter hypoattenuation is a nonspecific 
finding most commonly seen with chronic microangiopathy. Please 
note, gadolinium-enhanced MRI MRI is more sensitive for the 
detection of acute ischemia or intracranial metastases.  2. 
Paranasal sinus disease.

 
Brief Hospital Course:
She remained afebrile. Antibiotics were stopped w/o suspicions 
for UTI. UCx will be monitored.

She was seen by geriatrics and psych consults.  Non concern for 
need for acute psych hospitalization. Recommendations around 
medications to decrease potential side effects were initiatied 
(Celexa started instead of Paxil; Trazodone started instead of 
antipsychotics) with concern for posssible ___ dementia. 
Otpt gerontologist was contacted and she will pursue f/u otpt 
head MRI. Husband instructed to call Dr. ___ to get 
appointment within next few weeks.  Patient had not been taking 
benzodiazepines for quite some time, so these were not 
restarted.  All Rx were given to husband (1 mo worth) as patient 
had flushed her meds down toilet.

Patient DC'd to home.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Valsartan 80 mg PO DAILY 
2. Atorvastatin 20 mg PO QPM 
3. amLODIPine 2.5 mg PO DAILY 
4. Aspirin 81 mg PO DAILY 
5. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 mg 
calcium- 200 unit oral DAILY 
6. Chlorpheniramine Maleate 4 mg PO DAILY:PRN allergy 
7. Centrum Complete (multivitamin-iron-folic acid) ___ mg-mcg 
oral DAILY 
8. Fish Oil (Omega 3) ___ mg PO DAILY 
9. Donepezil 5 mg PO QHS 
10. PARoxetine 20 mg PO DAILY 
11. ClonazePAM 0.5 mg PO TID 
12. Anastrozole 1 mg PO DAILY 

 
Discharge Medications:
1.  Citalopram 10 mg PO DAILY 
RX *citalopram 10 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  TraZODone 25 mg PO QHS:PRN agitation 
RX *trazodone 50 mg 0.5 (One half) tablet(s) by mouth QHS:PRN 
Disp #*30 Tablet Refills:*0 
3.  amLODIPine 2.5 mg PO DAILY 
RX *amlodipine 2.5 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
4.  Anastrozole 1 mg PO DAILY 
RX *anastrozole 1 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
5.  Aspirin 81 mg PO DAILY  
6.  Atorvastatin 20 mg PO QPM 
RX *atorvastatin 20 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*0 
7.  Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 mg 
calcium- 200 unit oral DAILY  
8.  Centrum Complete (multivitamin-iron-folic acid) ___ 
mg-mcg oral DAILY  
9.  Chlorpheniramine Maleate 4 mg PO DAILY:PRN allergy 
RX *chlorpheniramine maleate 4 mg 1 tablet(s) by mouth 
daily;prin Disp #*30 Tablet Refills:*0 
10.  Fish Oil (Omega 3) ___ mg PO DAILY  
11.  Valsartan 80 mg PO DAILY 
RX *valsartan 80 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Dementia w/ psychosis

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with continued behavioral disturbances and 
psychosis with dementia. The neurological exam was normal. You 
were seen by psychiatry and gerontology team who made some 
medication adjustments and feel this is likely due to advancing 
demential. Psychiatry will communicate with Dr. ___: 
possible outpatient psychiatry follow up referral. Please call 
Dr. ___ for a followup appointment in the next few 
weeks.  Speak with ___ outpatient nutritionist 
referral.
 
Followup Instructions:
___